US07825135B2
A 4-(6-methylpyridin-2-yl)-1-(propylsulfonyl)piperidine-4-carbonitrile (II-4A) (2.77 g, 9 mmole) and Raney-Ni (1.5 g) in ammonia-MeOH (2M, 80 mL) was hydrogenated under H2 (55 psi) at rt o/n. After this time LCMS indicated that the reaction was completion. The catalyst was filtered and washed with MeOH (6×60 mL). The MeOH solution was concentrated on a rotary evaporator to afford {[4-(6-methylpyridin-2-yl)-1-(propylsulfonyl)piperidin-4-yl]methyl}amine (II-5) as a liquid. Anal LCMS: single peak (214 nm), 1.931 min. This product was used in next step reaction without further purification.

reactant | 4-(6-methylpyridin-2-yl)-1-(propylsulfonyl)piperidine-4-carbonitrile | 9 mmole, 2.77 g | CC1=CC=CC(=N1)C1(CCN(CC1)S(=O)(=O)CCC)C#N | C15H21N3O2S
solvent | ammonia MeOH | 2M, 80 mL | N.CO
catalyst | Ni | 1.5 g | [Ni] | Ni
product | {[4-(6-methylpyridin-2-yl)-1-(propylsulfonyl)piperidin-4-yl]methyl}amine | CC1=CC=CC(=N1)C1(CCN(CC1)S(=O)(=O)CCC)CN | C15H25N3O2S
